US09079866B2
5-[3-Fluoro-2′-(morpholin-4-ylcarbonyl)biphenyl-4-yl]pyrimidin-2-amine
The title compound was prepared using methods analogous to those described in Example 369 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and (2-bromophenyl)(morpholino)methanone. MS (ESI): mass calcd. for C21H19FN4O2, 378.15; m/z found, 379.2 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.56 (d, J=1.4, 2H), 7.54-7.41 (m, 5H), 7.36 (dd, J=8.0, 1.8, 1H), 7.32 (dd, J=11.5, 1.8, 1H), 5.20 (s, 2H), 3.74-3.58 (m, 3H), 3.49-3.30 (m, 2H), 3.15-3.01 (m, 1H), 2.94-2.77 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | (2-bromophenyl)(morpholino)methanone | BrC1=C(C=CC=C1)C(=O)N1CCOCC1 | C11H12BrNO2
product | 5-[3-Fluoro-2′-(morpholin-4-ylcarbonyl)biphenyl-4-yl]pyrimidin-2-amine | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=CC=C1)C(=O)N1CCOCC1 | C21H19FN4O2
